US04870075
Methyl 2-hydroxyphenylacetate (21.0 g) was dissolved in dry DMF (200 ml), and dry potassium carbonate (19.35 g) was added in one portion. Benzyl bromide (23.94 g) in dry DMF (50 ml) was added dropwise to this mixture, with stirring, at room temperature. After eighteen hours the mixture was poured into water (500 ml) and extracted with ether (2×400 ml). The extracts were washed with water (3×150 ml) and brine (100 ml), dried and filtered through silica gel (50 g; Merck 60), then concentrated under reduced pressure to afford a yellow oil. Distillation at 160° C. and 0.05 mmHg afforded methyl 2-benzyloxyphenylacetate as a clear, colourless oil (26.99 g; 83% yield), infrared maximum (film): 1730 cm-1 ; 1H nmr (CDCl3, 90 MHz): delta 3.60 (3H, s), 3.75 (2H, s), 4.10 (2H, s), 6.80-7.40 (9H, m) ppm.

reactant | Methyl 2-hydroxyphenylacetate | 21.0 g | OC1=C(C=CC=C1)CC(=O)OC | C9H10O3
reactant | potassium carbonate | 19.35 g | C([O-])([O-])=O.[K+].[K+]
reactant | Benzyl bromide | 23.94 g | C(C1=CC=CC=C1)Br | C7H7Br
reactant | water | 500 ml | O | H2O
solvent | DMF | 200 ml | CN(C)C=O | C3H7NO
solvent | DMF | 50 ml | CN(C)C=O | C3H7NO
product | methyl 2-benzyloxyphenylacetate | 83% yield | C(C1=CC=CC=C1)OC1=C(C=CC=C1)CC(=O)OC | C16H16O3
